data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2721,"CC(C)=CCC1(C)CC=C[C:1](C)=[C:2]1[O:3][Li-][NH+](C(C)C)C(C)C.[CH3:4][I:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8553,"C=C(Br)CC1OC1C(CC(=C)C(C)COCC1=CC=C(OC)C=C1)[O:1][B-](F)(F)F.CC[O+](CC)[Si](C)(C)C.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1863,"C[CH:1]([NH:2]O)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3327,"CC(=O)[O:1][H:2].O=S(CCN1CCC2CCC(NNC3=CC=CC=C3)([OH:3])CC21)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7165,"CC(O)(O)[NH:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9526,"C1=CC=C(C2=CC=C[CH:1]=[C:2]2[O-:3])C=C1.O=[C:4]=[O:5].[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8486,"C[NH2+:1][H:2].O=C1C=C2CC(C(=O)[O-])[NH2+]C2C=C1[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9254,"C[P+:1](Cl)(Cl)[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4577,"C1CC2=[N:1]CCCN2C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5431,"C=C=C1CC(C2=CC=CC=C2)CC1[O+:1]([Si](C)(C)C)[Zn-:2]([Cl])[Cl].[Cl-]|((2, 1), 1)"
train,pmechdb_split_0,0,923,"C[CH:1]([O-:2])[O:3][AlH3-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6829,"CO.C[O:1]CNC(CC1=CC=C(O)C=C1)C(=O)O.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5430,"C=CC[Si](C)(C)C.CC(C)OC(CCC1=CC=CC=C1)[O+]([Si](C)(C)C)[Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,649,"C[CH:1]([O-:2])[O:3]P(=O)(O)O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5395,"C1C[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5770,"[H:1][OH:2].[Li][O:3]C1(C#C)CCC2(C)CCC(C)(C)C21|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,539,"CC(=O)[O:1][H:2].O=S(CCN1CCC2CCC([NH2+]NC3=CC=CC=C3)([O-:3])CC21)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1230,"CN(C)C=[N+:1](C)[H:2].[Li][O+]=C[CH-:3]P(=O)(OC)OC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8852,"C[C:1]1=[C:2]2C=CC=C[C:3]2=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,10231,"S[CH:1]=[O:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1000,"CCCC[N+](CCCC)(CCCC)CCCC.O=C(C1=CC=CC=C1)[CH:1]([C:2](O)(C1=CC=CC=C1)[C:3](=O)[O-:4])[Br:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,1969,"CC(=O)[O-].CCOC(=O)C[C:1](C)=[N+:2]1CCOCC1.N#C[BH2-:3][H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4010,"C=C(C)[C:1](C)([O:2]CC)[O:3][Mg][Br]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6552,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(CC2CCC(=[O+:1][H:2])O2)C=CC(C)=C1.C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8799,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[C:1]1([CH3:2])CCCC[CH+:3]1|((1, 2), 3)"
train,pmechdb_split_0,0,5473,"C1=CC2=C(C=C1)CC(N1CCCC1)([OH:1])C2.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5986,"CC(C)[C:1]1([H:2])C=C[C+:3](O)[CH:4]=[CH:5]1.[Cl][Al-]([Cl])([Cl])[Cl:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,5647,"C1=CC=[N:1]C=C1.CC12CCC(O)CC1=CCC1C2CCC2(C)C1CCC2C(C)(O)[O+:2](CCO)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7786,"CC(=O)C1=CC2=C(C=C1)[CH:1]=[CH:2]C=C2.C[C+:3]=O|((2, 1), 3)"
train,pmechdb_split_0,0,9169,"CC(=O)C[CH:1]([NH:2]C)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3992,"C[CH:1]=[O+:2]CCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5130,"CCC(C1CCCCC1)[NH:1]CC.CCCC[C:2](C(CC)CCC1CCCC1)=[O:3].CC[NH2+]C(CC)C1CCCCC1.[BH3-]C#N.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,725,"CC(C)(C#N)[O:1][H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2508,"CC[O-:1].COC1=CC=CC(CC[C:2]2([H:3])C3(O)CCC(=O)C3(C)CC[C:4]2=[O:5])=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1615,"CC(C)=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6257,"COC1=CC(C[C:1](NC(C)C2=CC=CC=C2)([O-:2])[Cl:3])=CC(OCC2=CC=CC=C2)=C1OC.O.[OH2+][Na]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4409,"C[C:1](C1=C(O)C=CC=C1)=[O:2].OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,864,"C1CCOC1.C[O:1][C:2]1([O-:3])OC(C2=CC=CC=C2)C2=C1C=CC=C2.[Br][Mg][C]1=CC=CC=C1.[Mg+][Br]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8262,"C1CC[NH2+]CC1.CN(C)C=O.CNC(=O)CNC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3647,"C=CC[C+:1]1C=C[C:2](C(C)CC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8033,"CO[PH:1](Cl)(Cl)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6126,"N#C[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3668,"C1CC[C:1](=[OH+:2])OC1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9106,"C1=CC=[NH+]C=C1.CC(=O)OC12CCCCC1[C:1]1([OH:2])[CH:3]2CCC[CH:4]1[O:5]S(C)(=O)=O.[Cl-]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8191,"C=C(Br)CC1(CCCC(C2=[N+](C3=C(F)C(F)=C(F)C(F)=C3F)N=C3CCCN32)[O-:1])C=CC(=O)C=C1.CC[N+:2](CC)(CC)[H:3].F[B-](F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8365,"CC[NH:1][C:2](C)(C)[OH2+:3]|(1, 2);((2, 3), 3)"
